US06310243B1
f. 5-(2-Acetoxy-5-chloropentanoylamino)-3-acetoxymethyl-N,N-bis-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-N,N-bis-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide g, 6.85 mmol) was dissolved in dry N,N-dimethylacetamide (10 ml) and the mixture was cooled in an ice-bath. 2-Acetoxy-5-chloropentanoyl chloride (4.36g, mmol) was then added dropwise. The mixture was stirred at room temperature for 24 h, and then added slowly to aqueous sodium hydrogen carbonate (5%, 600 ml) with efficient stirring. A precepitate was formed and filtered off, redissolved in methylene chloride (250 ml) which was washed with water (6×70 ml), dried (Na2SO4) and concentrate in vacuo. The residue was chromatographed on a column of silica gel using heptane/ethyl acetate (3/7) as the eluent Yield: 7.30 g (97%).

reactant | 5-Amino-3-acetoxymethyl-N,N-bis-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | NC=1C(=C(C(=C(C(=O)N(CC(COC(C)=O)OC(C)=O)CC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C24H29I3N2O11
reactant | 2-Acetoxy-5-chloropentanoyl chloride | 4.36g | C(C)(=O)OC(C(=O)Cl)CCCCl | C7H10Cl2O3
reactant | sodium hydrogen carbonate | 600 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 5-(2-Acetoxy-5-chloropentanoylamino)-3-acetoxymethyl-N,N-bis-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C(=O)N(CC(CO)O)CC(CO)O)C1I)I)COC(C)=O)I)CCCCl | C23H30ClI3N2O10
